US05461026
2-(1-Acetoxy-2-fluoroethyl)-N-[(4,6-dimethoxy-pyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide
To a solution of 2-(1-acetoxy-2-fluoroethyl)-3-pyridinesulfonamide (2.10 g) and phenyl(4,6-dimethoxypyrimidin-2-yl)carbamate (1.49 g) in 50 ml acetonitrile is added dropwise 0.7 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene(DBU) at 15° C. After stirring for 2 hours the resultant solution is extracted with methylene chloride and 5% hydrochloric acid. The organic phase is dried over magnesium sulfate, filtered and evaporated to yield the subject compound.

reactant | 2-(1-acetoxy-2-fluoroethyl)-3-pyridinesulfonamide | 2.10 g | C(C)(=O)OC(CF)C1=NC=CC=C1S(=O)(=O)N | C9H11FN2O4S
reactant | phenyl(4,6-dimethoxypyrimidin-2-yl)carbamate | 1.49 g | C1(=CC=CC=C1)OC(NC1=NC(=CC(=N1)OC)OC)=O | C13H13N3O4
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(1-Acetoxy-2-fluoroethyl)-N-[(4,6-dimethoxy-pyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | C(C)(=O)OC(CF)C1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C16H18FN5O7S
